US08349865B2
Step 3: 9-Bromo-N-[2,6-dichloro-4-(1H-pyrazol-5-yl)phenyl]-1-methoxybenzo[c]-2,6-naphthyridin-5-amine
To a solution of 9-bromo-N-(2,6-dichloro-4-iodophenyl)-1-methoxybenzo[c]-2,6-naphthyridin-5-amine (500 mg, 0.87 mmol) in DMF (20 mL), was added 1H-pyrazol-5-ylboronic acid (107 mg, 0.96 mmol), PdCl2(dppf)-CH2Cl2 adduct (142 mg, 0.17 mmol) and sodium carbonate (0.87 mL, 1.74 mmol, 2M in water). The solution was heated to 100° C. in the microwave in a sealed tube for 45 min. The reaction was diluted with ethyl acetate:THF (2:1) and extracted with water followed by brine. The organic layer was dried with sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with THF in hexanes(10-50%) to afford the title compound.

reactant | 9-bromo-N-(2,6-dichloro-4-iodophenyl)-1-methoxybenzo[c]-2,6-naphthyridin-5-amine | 0.87 mmol, 500 mg | BrC1=CC2=C(N=C(C3=CC=NC(=C23)OC)NC2=C(C=C(C=C2Cl)I)Cl)C=C1 | C19H11BrCl2IN3O
reactant | 1H-pyrazol-5-ylboronic acid | 0.96 mmol, 107 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | sodium carbonate | 1.74 mmol, 2M, 0.87 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate THF | C(C)(=O)OCC.C1CCOC1
catalyst | PdCl2(dppf) CH2Cl2 | 0.17 mmol, 142 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 9-Bromo-N-[2,6-dichloro-4-(1H-pyrazol-5-yl)phenyl]-1-methoxybenzo[c]-2,6-naphthyridin-5-amine | BrC1=CC2=C(N=C(C3=CC=NC(=C23)OC)NC2=C(C=C(C=C2Cl)C2=CC=NN2)Cl)C=C1 | C22H14BrCl2N5O
